US09102671B2
To a solution of (3R)-4-((tert-butoxycarbonyl)amino)-3-((tert-butyldimethylsilyl)oxy)-1-(3-cyano-5-fluorophenyl)butyl methanesulfonate (I-11) (5.3 g, 10.3 mmol) in DMF (30 mL) at 0° C. was added NaH (0.43 mg of a 60% mineral oil dispersion, 10.8 mmol). The reaction was stirred at room temperature for 12 hours. The reaction was quenched with water and extracted with EtOAc, washed with brine, dried over sodium sulfate, filtered and concentrated. The crude product was purified by column chromatography on silica gel with EtOAc/hexanes gradient as eluant to yield (4R)-tert-butyl 4-((tert-butyldimethylsilyl)oxy)-2-(3-cyano-5-fluorophenyl)pyrrolidine-1-carboxylate (I-12). 1H NMR (400 MHz, CDCl3) δ 7.38 (s, 1 H), 7.33-7.20 (m, 1 H), 7.20-7.12 (m, 1 H), 4.90 (dd, J=7.6, 56.2 Hz, 1 H), 4.45-4.39 (m, 1 H), 3.78-3.65 (m, 1 H), 3.52 (dd, J=11.2, 36.8 Hz, 1 H), 2.56-2.41 (m, 1 H), 1.89 (t, J=13.2 Hz, 1 H), 1.47 (s, 4 H), 1.23 (s, 5 H), 0.75 (d, J=7.6 Hz, 9 H), 0.03 (s, 3 H), −0.08 (d, J=10.8 Hz, 3 H). MS m/z 443.2 (M+23)+.

reactant | (3R)-4-((tert-butoxycarbonyl)amino)-3-((tert-butyldimethylsilyl)oxy)-1-(3-cyano-5-fluorophenyl)butyl methanesulfonate | 10.3 mmol, 5.3 g | CS(=O)(=O)OC(C[C@H](CNC(=O)OC(C)(C)C)O[Si](C)(C)C(C)(C)C)C1=CC(=CC(=C1)F)C#N | C23H37FN2O6SSi
reactant | NaH | [H-].[Na+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | (4R)-tert-butyl 4-((tert-butyldimethylsilyl)oxy)-2-(3-cyano-5-fluorophenyl)pyrrolidine-1-carboxylate | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC(N(C1)C(=O)OC(C)(C)C)C1=CC(=CC(=C1)F)C#N | C22H33FN2O3Si
